US04156670
Preparation of 1-methyl-3-(5-methyl-4,5,6,7-tetrahydrobenzo[b]thien-4-yl)urea
Similarly, alkylation of 4,5,6,7-tetrahydrobenzo[b]thiophen-4-one with ethyl iodide, propyl iodide, and butyl iodide affords the corresponding 5-alkyl ketones, which are converted in the above manner to 1-methyl-3-(5-ethyl-4,5,6,7-tetrahydrobenzo[b]thien-4-yl)urea, 1-methyl-3-(5-propyl-4,5,6,7-tetrahydrobenzo[b]thien-4-yl)urea, and 1-methyl-3-(5-butyl-4,5,6,7-tetrahydrobenzo[b]thien-4-yl)urea, respectively.

reactant | 1-methyl-3-(5-ethyl-4,5,6,7-tetrahydrobenzo[b]thien-4-yl)urea | CNC(=O)NC1C(CCC=2SC=CC21)CC | C12H18N2OS
reactant | 1-methyl-3-(5-propyl-4,5,6,7-tetrahydrobenzo[b]thien-4-yl)urea | CNC(=O)NC1C(CCC=2SC=CC21)CCC | C13H20N2OS
reactant | 1-methyl-3-(5-butyl-4,5,6,7-tetrahydrobenzo[b]thien-4-yl)urea | CNC(=O)NC1C(CCC=2SC=CC21)CCCC | C14H22N2OS
product | 1-methyl-3-(5-methyl-4,5,6,7-tetrahydrobenzo[b]thien-4-yl)urea | CNC(=O)NC1C(CCC=2SC=CC21)C | C11H16N2OS
